US06100260
2-(2-Fluoro-biphenyl-4-yl)-propionic acid (104.2 g) was dissolved in methanol (410 ml) and then conc. sulfuric acid (60.2 g) was added, after which the resulting mixture was stirred at 40° C. for 2.5 hours. The mixture was cooled to room temperature, diluted with toluene, then neutralized with a saturated aqueous sodium bicarbonate solution, and thereafter subjected to extraction with ethyl acetate. The organic layer was dried over sodium sulfate and then concentrated under reduced pressure, to obtain methyl 2-(2-fluoro-biphenyl-4-yl)-propionate (110.2 g).

reactant | 2-(2-Fluoro-biphenyl-4-yl)-propionic acid | 104.2 g | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | sulfuric acid | 60.2 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 410 ml | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(2-fluoro-biphenyl-4-yl)-propionate | 110.2 g | FC1=C(C=CC(=C1)C(C(=O)OC)C)C1=CC=CC=C1 | C16H15FO2
